US07576063B2
3-(β-D-Glucopyranosyloxy)-4-[(4-isobutyphenyl)methyl]-5-isopropyl-1H-pyrazole
To a suspension of 4-[(4-isobutylphenyl)methyl]-5-isopropyl-1,2-dihydro-3H-pyrazole-3-one (0.082 g), acetobromo-α-D-glucose (0.62 g) and benzyl(n-tributyl)ammonium bromide (0.054 g) in dichloromethane (3 mL) was added a sodium hydroxide aqueous solution (5 mol/L, 0.9 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was purified by column chromatography on aminopropylated silica gel (eluent:tetrahydrofuran). The obtained semi purified 5-isopropyl-4-[(4-isobutylphenyl)methyl]-3-(2,3,4,6-tetraacetyl-β-D-glucopyranosyloxy)-1H-pyrazole was dissolved in methanol (5 mL), and sodium methoxide (28% methanol solution, 0.29 mL) was added to the solution. The mixture was stirred at room temperature for 2 hours. The solvent of the reaction mixture was removed under reduced pressure, and water was added to the residue. The mixture was purified by solid phase extraction (washing solvent:water, eluent:methanol). Further purification by column chromatography on silica gel (eluent:dichloromethane/methanol=20/1-7/1) gave the title compound (0.080 g).

reactant | 4-[(4-isobutylphenyl)methyl]-5-isopropyl-1,2-dihydro-3H-pyrazole-3-one | 0.082 g | C(C(C)C)C1=CC=C(C=C1)CC=1C(NNC1C(C)C)=O | C17H24N2O
reactant | acetobromo-α-D-glucose | 0.62 g | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | sodium hydroxide | 5 mol/L, 0.9 mL | [OH-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(β-D-Glucopyranosyloxy)-4-[(4-isobutyphenyl)methyl]-5-isopropyl-1H-pyrazole | 0.080 g | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CC(C)C)C(C)C | C23H34N2O6
